* C:\Users\yoshinsh.AP\PycharmProjects\forWork\hard-ware\degital_circuit\LTpice\basic\rs-ff\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 Vtrig output rst N002 Vtrig N001 rst NE555
R1 N001 Vtrig 10k
R2 rst N001 10k
V1 rst 0 5.4
C1 Vtrig 0 0.001µ
V2 N002 0 1
.tran 100u
.lib NE555.sub
.backanno
.end
